US04797129
Preparation of 2-(β-hydroxyethyl)amino-6-(β-hydroxyethyl)aminonitrobenzene (First process)
0.25 mole (48 g) of 2,6-dichloronitrobenzene, prepared according to the method described by Alexander McKillop and Jonathan A. Tarbin in Tetrahedron Letters, Vol. 24 No. 14, page 1505 (1983), is added to 200 ml of ethanolamine. The mixture is heated to 98° C. for 8 hours. The reaction mixture is poured onto ice. After phase separation, the precipitate is taken up in the minimum quantity of ethanol, with stirring. After dilution with a mixture of ice and water, the expected product is filtered off, washed with water and then recrystallized from ethanol. It is identical with the product prepared in Example 1.

reactant | 2,6-dichloronitrobenzene | 0.25 mole, 48 g | ClC1=C(C(=CC=C1)Cl)[N+](=O)[O-] | C6H3Cl2NO2
reactant | ethanolamine | 200 ml | C(O)CN | C2H7NO
product | 2-(β-hydroxyethyl)amino-6-(β-hydroxyethyl)aminonitrobenzene | OCCNC1=C(C(=CC=C1)NCCO)[N+](=O)[O-] | C10H15N3O4
